US07129252B2
A mixture of [(4-nitrophenyl)cyclobutyl]methane-1-ol (500 mg) and NaH (60% in mineral oil, 1.2 eq) and MeI (1.2 eq) in THF was stirred at RT overnight then quenched with H2O. The solution was extracted with EtOAc and washed with H2O followed by brine, dried over Na2SO4 and evaporated. The residue was mixed with Pd—C (10%, 100 mg) in EtOH (50 ml) and hydrogenated under H2 atmosphere for 30 min. The reaction was filtered through Celite and evaporated to give 4-[(methoxymethyl)cyclobutyl]phenylamine which used for next step without further purification.

reactant | [(4-nitrophenyl)cyclobutyl]methane-1-ol | 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCC1)CO | C11H13NO3
reactant | NaH | 1.2 eq | [H-].[Na+]
reactant | MeI | 1.2 eq | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 4-[(methoxymethyl)cyclobutyl]phenylamine | COCC1(CCC1)C1=CC=C(C=C1)N | C12H17NO
